US05144045
2-(2-Nonadecynyl)-1,3-propanediol
A mixture of 1.8 g of lithium aluminum hydride in 150 ml of ether is prepared at 0° C. To this is added a solution of 11.7 g of 2-nonadecynylpropanedioic acid, diethyl ester in ether. This mixture is refluxed for 4 hours then the reaction is quenched with aqueous sodium sulfate. After stirring for 2 days, the reaction is diluted with ethyl acetate and filtered. The residue is treated with methanol, 1N sodium hydroxide and tetrahydrofuran and then evaporated. The residue is dissolved in ether and washed with brine and purified by flash chromatography, (4:6 ethyl acetate:petroleum ether), to give 5.3 g of the desired product as white plates, mp. 55° C.

reactant | lithium aluminum hydride | 1.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-nonadecynylpropanedioic acid, diethyl ester | 11.7 g | C(#CCCCCCCCCCCCCCCCCC)C(C(=O)OCC)C(=O)OCC | C26H46O4
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(2-Nonadecynyl)-1,3-propanediol | 5.3 g | C(C#CCCCCCCCCCCCCCCCC)C(CO)CO | C22H42O2
